US08097759B2
5-Bromo-2-hydroxy-N-(3,4,5-trichlorophenyl)benzamide (Compound No. 155)
Using 5-bromosalicylic acid and 3,4,5-trichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,4,5-trichloroaniline | ClC=1C=C(N)C=C(C1Cl)Cl | C6H4Cl3N
product | 5-Bromo-2-hydroxy-N-(3,4,5-trichlorophenyl)benzamide | Yield: 78.6% | BrC=1C=CC(=C(C(=O)NC2=CC(=C(C(=C2)Cl)Cl)Cl)C1)O | C13H7BrCl3NO2
